US07786308B2
Step 1: Preparation of 3-[4-(2,6-Dimethyl-pyrimidin-4-ylamino)piperidin-1-yl]-8-aza bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester
The 3-(4-Amino-piperidin-1-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester (30 mg; 0.11 mmol; 1 eq.) was dissolved in DMF (3 mL) and 2,4-dichloro-6-methyl-pyrimidine (17 mg; 1 eq.) and K2CO3 (22 mg; 1.5 eq.) was added and the reaction was heated to 80° C. and stirred under N2 overnight. The solution was diluted with H2O (10 mL) and extracted with AcOEt (2×25 mL). The organic layer was washed with brine and dried over Na2SO4, filtered, and concentrated under high vacuum to provide the product as an oil. The crude product was used without further purification.

reactant | 3-(4-Amino-piperidin-1-yl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 0.11 mmol, 30 mg, 1 eq. | C(C)OC(=O)N1C2CC(CC1CC2)N2CCC(CC2)N | C15H27N3O2
reactant | 2,4-dichloro-6-methyl-pyrimidine | 17 mg, 1 eq. | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | K2CO3 | 22 mg, 1.5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
product | 3-[4-(2,6-Dimethyl-pyrimidin-4-ylamino)piperidin-1-yl]-8-aza bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | C(C)OC(=O)N1C2CC(CC1CC2)N2CCC(CC2)NC2=NC(=NC(=C2)C)C | C21H33N5O2
